* Z:\mnt\design.r\spice\examples\1304-3.3.asc
C2 OUT 0 100µ
D1 N001 OUT MBRS140
L1 IN N001 22µ
V1 IN 0 2
XU1 N003 N004 IN N001 0 N002 IN OUT LT1304 top=590K bot=355K
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1304.sub
.backanno
.end
